US06528504B2
(R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine Dihydrochloride
1.5 ml of 4 M hydrochloric acid/ethyl acetate was added to a solution of (R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine (171 mg) in dichloromethane (5 ml), and they were stirred for 2 hours. The solvent was evaporated under reduced pressure. The title compound was obtained in the form of a light yellow solid (220 mg, 84%).

reactant | hydrochloric acid ethyl acetate | 4 M, 1.5 ml | Cl.C(C)(=O)OCC
reactant | (R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine | 171 mg | CN(C1=CC=C(CCN2[C@H](CCCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1)C | C29H35N3O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (R)-5,11-dihydro-5-[1-(4-dimethylaminophenethyl)piperidine-2-ylmethyl]dibenzo[b,e][1,4]oxazepine Dihydrochloride | Cl.Cl.CN(C1=CC=C(CCN2[C@H](CCCC2)CN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1)C | InChI=1S/C29H35N3O.2ClH/c1-30(2)25-16-14-23(15-17-25)18-20-31-19-8-7-10-26(31)21-32-27-11-4-3-9-24(27)22-33-29-13-6-5-12-28(29)32;;/h3-6,9,11-17,26H,7-8,10,18-22H2,1-2H3;2*1H/t26-;;/m1../s1
